US04698352
In 50 ml of methanol was suspended 6.5 g of 6-(4-aminophenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinic acid, and the suspension was cooled to 5° C., after which 3.9 g of thionyl chloride was added dropwise thereto over 10 minutes. After completion of the dropwise addition, the resulting mixture was refluxed for 6 hours, and then cooled to room temperature, after which the solvent was removed by distillation under reduced pressure. To the residue were added 30 ml of water and 30 ml of chloroform, and the resulting mixture was adjusted to a pH of 7 with sodium hydrogencarbonate, after which the aqueous layer was separated, washed with 30 ml of a saturated aqueous solution of sodium chloride, and then dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The resulting crystalline substance was washed with 50 ml of diethyl ether to obtain 6.7 g of methyl 6-(4-aminophenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinate having a melting point of 250° C. or more.

reactant | 6-(4-aminophenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinic acid | 6.5 g | NC1=CC=C(C=C1)C=1N(C=C(C(=O)O)C(C1)=O)C1=CC=C(C=C1)F | C18H13FN2O3
reactant | thionyl chloride | 3.9 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 50 ml | CO | CH4O
product | methyl 6-(4-aminophenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinate | 6.7 g | NC1=CC=C(C=C1)C=1N(C=C(C(=O)OC)C(C1)=O)C1=CC=C(C=C1)F | C19H15FN2O3
